US07919504B2
1-(4-Chlorothieno[2,3-c]pyridine-2-carbonyl)thiosemicarbazide.
4-Chlorothieno[2,3-c]pyridine-2-carboxylic acid (4.2 g, 19.7 mmol) was dissolved in 110 mL DMF in a round bottom flask. To this flask was added CDI (7.68 g, 47.4 mmol). After the flask was heated at 70° C. for 30 minutes, thiosemicarbazide (4.32 g, 47.4 mmol) dissolved in 5 mL DMF was added and the resulting mixture was heated at 70° C. for 30 minutes. After removing the DMF under reduced pressure, the remaining residue was mixed with 50 mL 1N HCl. After filtration and washing with water, the product was dried in a vacuum oven at 80° C. for 4 hours. The resulting product (6.0 g) was used directly in the next step. LCMS (API-ES) m/z (%): 287.1 (100%, M++H).

reactant | 4-Chlorothieno[2,3-c]pyridine-2-carboxylic acid | 19.7 mmol, 4.2 g | ClC1=C2C(=CN=C1)SC(=C2)C(=O)O | C8H4ClNO2S
reactant | CDI | 47.4 mmol, 7.68 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | thiosemicarbazide | 47.4 mmol, 4.32 g | NNC(=S)N | CH5N3S
solvent | DMF | 110 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-(4-Chlorothieno[2,3-c]pyridine-2-carbonyl)thiosemicarbazide | ClC1=C2C(=CN=C1)SC(=C2)C(=O)NNC(=S)N | C9H7ClN4OS2
